US06861424B2
2-(Methoxycarbonyl)-4-oxo-6,8-dichloro-7-methylquinoline (28.5 g, 99.6 mmol) was suspended in methanol (1 L) and a solution of LiOH.H2O (20.5 g, 0.5 mol) in water (200 mL) was added to the solution. The resulting reaction mixture was stirred at ambient temperature for 0.5 hours. Pd/C (5.8 g) was added to the reaction mixture and the resulting reaction mixture was shaken under 50 Psi hydrogen overnight. The reaction mixture was filtered, concentrated under reduced pressure to remove methanol, diluted with water (300 mL) and the pH was adjusted to between pH 3 and pH 4 by 2N HCl. The precipitate was collected by filtration, washed with water and dried to afford a white solid, 2-carboxy-4-oxo-7-methylquinoline (20 g, 90%); NMR (DMSO-d6) 2.40 (s, 3), 6.60 (s, 1), 7.20 (d, 1), 7.68 (s, 1), 7.96 (d, 1) ppm.

reactant | 2-(Methoxycarbonyl)-4-oxo-6,8-dichloro-7-methylquinoline | 99.6 mmol, 28.5 g | COC(=O)C1=NC2=C(C(=C(C=C2C(C1)=O)Cl)C)Cl | C12H9Cl2NO3
reactant | LiOH.H2O | 0.5 mol, 20.5 g | O[Li].O
solvent | methanol | 1 L | CO | CH4O
solvent | water | 200 mL | O | H2O
catalyst | Pd/C | 5.8 g | [Pd] | Pd
product | 2-carboxy-4-oxo-7-methylquinoline | 20 g, 90% | C(=O)(O)C1=NC2=CC(=CC=C2C(C1)=O)C | C11H9NO3
